US06265536B1
To a suspension of dimethyl terephthalate (1.94 g) and potassiuim t-butoxide (2.24 g) in tetrahydrofuran (30 ml) was added 4-pentyloxyacetophenone (1.59 g) in tetrahydrofuran (10 ml) at 70° C. dropwise. The mixture was refluxed for 30 minutes and poured into 1N HCl (50 ml). The mixture was extracted with ethyl acetate (100 ml) and the organic layer was washed with H2O (100 ml), brine (100 ml) and evaporated under reduced pressure. The residue was triturated with acetonitrile (20 ml), collected by filtration and dried under reduced pressure to give 1-(4-Methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)propane-1,3-dione (2.41 g) as yellow solid.

reactant | dimethyl terephthalate | 1.94 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | t-butoxide | 2.24 g | CC(C)([O-])C
reactant | 4-pentyloxyacetophenone | 1.59 g | CCCC(C)OCC(=O)C1=CC=CC=C1 | C13H18O2
reactant | HCl | 1N, 50 ml | Cl | ClH
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-Methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)propane-1,3-dione | 2.41 g | COC(=O)C1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)OCCCCC)=O | C22H24O5
